US09382241B2
To a 20 mL screw-cap vial was added methyl 4-amino-6-chloro-quinazoline-8-carboxylate (640 mg; 1.8 mmol), (3-fluorophenyl)boronic acid (2 equiv., 3.6 mmol, 0.49753 g), dioxane (10 mL), Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (0.05 equiv. 0.09 mmol, 0.062945 g), and potassium phosphate tribasic (2M in water, 4 equiv., 7.2 mmol, 3.6 mL). The reaction was capped and shaken at 100° C. for 4 h. LCMS showed complete Suzuki coupling, as well as saponified ester. The Reaction was cooled to room temperature, and partitioned with water and ethyl acetate. The organic was extracted 2 additional times with water. The combined aqueous was acidified to pH 2 with conc. HCl. The resulting precipitate was collected via filtration, yielding 350 mg of 4-amino-6-(3-fluorophenyl)quinazoline-8-carboxylic acid, ˜85% pure. Product was carried directly on to the amide formation. LCMS M/Z (M+H)=284.

reactant | methyl 4-amino-6-chloro-quinazoline-8-carboxylate | 1.8 mmol, 640 mg | NC1=NC=NC2=C(C=C(C=C12)Cl)C(=O)OC | C10H8ClN3O2
reactant | (3-fluorophenyl)boronic acid | 3.6 mmol, 0.49753 g, 2 equiv. | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium phosphate tribasic | 7.2 mmol, 2M, 3.6 mL, 4 equiv. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.09 mmol, 0.062945 g, 0.05 equiv | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-amino-6-(3-fluorophenyl)quinazoline-8-carboxylic acid | 350 mg | NC1=NC=NC2=C(C=C(C=C12)C1=CC(=CC=C1)F)C(=O)O | C15H10FN3O2
